US04801705
(2,3-Dihydroxybenzoyl)hydrazine, trifluoroacetate salt (2.82 g) was suspended in 50 ml of acetonitrile and 13.5 g of N-methyl-N-(trimethylsilyl)trifluoroacetamide were added. After stirring for one hour at 40° C., the solvent and trifluoroacetic acid, trimethylsilyl ester formed were distilled off in vacuo. The remaining oil was dissolved again in 50 ml of dried acetonitrile, cooled to 0° C. and added dropwise to a solution of 3.48 g of an adduct of chlorosulfonylisocyanate and (S)-(2-oxo-3-azetidinyl)carbamic acid, phenylmethyl ester in 100 ml of acetonitrile at 0° C. with stirring. After continuous stirring overnight, the solvent was distilled off in vacuo and the residue stirred (1 hour) with 200 ml of isopropanol. (S)-3-[[(Phenylmethoxy)carbonyl]amino]-N-[[2-(2,3-dihydroxybenzoyl)hydrazino]sulfonyl]-2-oxo-1-azetidinecarboxamide precipitated from the solution. Isolation by filtration and washing with ether yielded 3.87 g of white powder.

reactant | (2,3-Dihydroxybenzoyl)hydrazine, trifluoroacetate salt | 2.82 g | FC(C(=O)O)(F)F.OC1=C(C(=O)NN)C=CC=C1O
reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 13.5 g | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | trifluoroacetic acid, trimethylsilyl ester | FC(C(=O)O[Si](C)(C)C)(F)F | C5H9F3O2Si
